US06743776B2
To a mixture of propyl 4-(4′-propoxyphenyl)benzoate (20.00 g) in a mixture of ethanol (100 ml) and tetrahydrofuran (40 ml) was added hydrazine monohydrate (32.5 ml). The mixture was refluxed for 2 hours, during this period additional hydrazine monohydrate (32.5 ml) was added into the mixture. After cooling to room temperature, the reaction mixture was poured into water (1800 ml) and then the mixture was stirred for 30 minutes at room temperature. The resulting precipitate was filtered, washed with water, and dried to give the objective compound, 4-(4′-propoxyphenyl)-benzoyl hydrazine (17.63 g), as a white solid.

reactant | propyl 4-(4′-propoxyphenyl)benzoate | 20.00 g | C(CC)OC1=CC=C(C=C1)C1=CC=C(C(=O)OCCC)C=C1 | C19H22O3
reactant | hydrazine monohydrate | 32.5 ml | O.NN
reactant | hydrazine monohydrate | 32.5 ml | O.NN
reactant | water | 1800 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 4-(4′-propoxyphenyl)-benzoyl hydrazine | 17.63 g | C(CC)OC1=CC=C(C=C1)C1=CC=C(C(=O)NN)C=C1 | C16H18N2O2
